Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
citrotide
 
Attending: ___.
 
Chief Complaint:
c-section scar ectopic
 
Major Surgical or Invasive Procedure:
Methotrexate injection

 
History of Present Illness:
___ year old G3P1 with known cesarean scar ectopic s/p IVF
now also s/p intrasac aspiration and intrasac + systemic MTX on
___ presented to GYN triage for follow-up. 

Overall reported feeling well. She continued to have lower 
abdominal
cramping/sharp pain. At worst ___ (day prior to presentation) 
but less so at time of presentation. Had not taken anything for 
the pain. Reported that the pain occurred
for a few minutes at a time. Nonradiating. 

She denied fever, chills, nausea, vomiting, diarrhea, dysuria,
urinary frequency. She had been tolerating a regular diet.
Reported brown spotting per vagina but no bright red blood.

 
Past Medical History:
OBHx: G3P1
___ LTCS, full term, c/b GDM
___ SAB

GYNHx:
- Irregular cycles
- Infertility

PMH:
- Borderline HgbA1c
- Depression/anxiety

PSH:
- LTCS x 1
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Physical Exam
VS: T-98.7  HR-80  BP-119/63  RR-18 
Gen: NAD
CV: RRR
Pulm: CTAB
Abd: Soft, nondistended, mild bilateral lower abdominal
tenderness to deep palpation but no rebound or guarding. 
Ext: nontender

Discharge exam:
Gen: NAD, comfortable appearing
CV: RRR
Pulm: CTAB
Abd: Soft, nondistended, mild bilateral lower abdominal
tenderness to deep palpation but no rebound or guarding. 
Ext: WWW, calves nontender
 
Pertinent Results:
___ 08:13AM BLOOD WBC-8.5 RBC-5.22 Hgb-11.3* Hct-36.6 
MCV-70* MCH-21.6* MCHC-30.8* RDW-15.9* Plt ___
___ 08:13AM BLOOD ___ PTT-33.3 ___
___ 08:13AM BLOOD Glucose-99 UreaN-11 Creat-0.5 Na-135 
K-4.0 Cl-103 HCO3-24 AnGap-12
___ 08:13AM BLOOD ALT-11 AST-16

___  39  ___
Radiology ReportEARLY OB US <14WEEKSStudy Date of ___ 
8:52 AM
 
___ ___ 8:52 AM
EARLY OB US <14WEEKS; TV OB US Clip # ___  
Reason: Please evaluate size of gestational sac, vascularity, 
and my
UNDERLYING MEDICAL CONDITION:
   ___ year old woman at approx 6 weeks with c-section scar 
ectopic pregnancy now
   s/p intra-sac methotrexate injection on ___.
REASON FOR THIS EXAMINATION:
   Please evaluate size of gestational sac, vascularity, and 
myometrial thickness
   anterior to the sac.
Final Report
HISTORY:  C-section scar ectopic; status post ultrasound-guided 
aspiration and
direct injection of methotrexate on ___ 
 
Initial transfer of 2 embryos by IVF 
 
TECHNIQUE:  Transabdominal and transvaginal sonography was 
performed. 
Transvaginal sonography was performed for further delineation of 
the
endometrium and the adnexae.  
 
COMPARISON:  ___ 
 
FINDINGS:
 
The uterus is anteverted and retroflexed.  The upper endometrium 
measures 5.0
mm.  
 
In the region of the C-section scar, the gestational sac is 
still evident. 
The sac appears slightly more flattened when compared to prior 
ultrasound
however the mean sac diameter is unchanged.  There is no 
evidence of yolk sac.
 
 
The outer contour of the lower uterine segment still appears 
smooth with no
obvious outpouching.  The myometrium anterior to the gestational 
sac measures
approximately 2 mm in thickness.  Vascularity is still 
demonstrated however is
still markedly less than on initial exam.  There is a small 
amount of fluid
measuring 6 x 4 mm demonstrated within the C-section scar 
anterior to the
gestational sac.  
 
The left ovary is normal in appearance consistent with post IVF 
appearance. 
Within the right ovary, there are three rounded, probable 
residual
follicles/corpus luteum.  These have been present since initial 
exam.  When
compared to the prior ultrasound, 2 of the structures are 
unchanged in size
and have increased in echogenicity while the ___ inferior 
structure is
unchanged.  This likely represents the normal post IVF 
appearance however, a
coexisting ectopic cannot be completely excluded.  There is no 
free fluid.  
 
IMPRESSION:
 
1.  Persistent gestational sac demonstrated within the c-section 
scar.  No
significant change in size when compared to most recent prior 
ultrasound.  New
finding on 6 x 4 mm fluid collection seen just anterior to the 
gestational sac
in the region of the C-section scar.  
 
2.  Ovaries with normal post IVF appearance.  No change from 
prior
ultrasounds.  Multiple residual follicles/corpus luteum in the 
right ovary
likely due to ovarian stimulation and egg harvest however, 
coexisting ectopic
pregnancy cannot be completely ruled out, continue follow up is 
recommended
with ultrasound and BHCG.  
 
The results of this exam were communicated at the time of the 
exam by
telephone to Dr. ___ by ___.
 
 
Brief Hospital Course:
Ms. ___ presented for follow-up of HCG levels (day 7) and a 
repeat US.  Her HCG had decreased  to ___ (from ___. Repeat 
ultrasound revealed a 10mm gestational sac (with no yolk sac or 
fetal pole)with 2-3mm of myometrium anterior to the sac between 
the sac and the bladder. This was stable from her prior US.   
Her symptoms and physical exam were stable. 

After review with the radiology attending, it was decided not to 
have proceed with a repeat intra-sac MTX injection given the 
small size of the sac. The patient's serum HCG had declined 
between Day 4 and Day 7,  but given the high level it was 
decided to give her a second systemic MTX injection.

She was admitted overnight for observation and monitoring given 
that she continued to report some abdominal cramping. Her vital 
signs, symptoms and exam were stable and after counseling she 
was discharged home in stable condition with close outpatient 
followup arranged. 

 

 
Medications on Admission:
 Prozac, Tylenol prn
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN pain 
2. Fluoxetine 40 mg PO DAILY 
3. OxycoDONE (Immediate Release)  5 mg PO ONCE Duration: 1 Dose 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Capsule Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cesarean scar ectopic pregnancy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after your second dose of 
methotrexate for treatment of your ectopic pregnancy. It is very 
important that you follow-up with Dr. ___ monitoring of 
your pregnancy hormone level (beta HCG) and repeat ultrasound.

Please refer to the methotrexate information sheet for 
instructions. 
 
Followup Instructions:
___